US07423035B2
4-(1-amino-cyclopropylmethyl)-phenol
Hydrogenation of 5.00 g (19.7 mmol) 1-(4-benzyloxy-benzyl)-cyclopropylamine in 60 mL methanol at 3 bar with palladium on charcoal as catalyst. Yield: 2.25 g (70%); mass spectroscopy: [M+H]+=164.

reactant | 1-(4-benzyloxy-benzyl)-cyclopropylamine | 19.7 mmol, 5.00 g | C(C1=CC=CC=C1)OC1=CC=C(CC2(CC2)N)C=C1 | C17H19NO
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-(1-amino-cyclopropylmethyl)-phenol | NC1(CC1)CC1=CC=C(C=C1)O | C10H13NO
